US05149700
Step 4) Preparation of [2-(2,3-dihydro-1H-imidazo-[1,2-a]benzimidazole-1-yl)ethyl]acetate
According to the procedure of N. Ono, et al., Bull. Chem. Soc. Jpn., 51 (8), 2401 (1978), a solution of 1-N-(2-iodoethyl)-2,3-dihydro-1H-imidazo[1,2-a]benzimidazole (2.20 g, 7.03 mmol), acetic acid (0.060 mL, 10.54 mmol) and DBU (1.57 mL, 10.54 mmol) in toluene (70 mL) was heated under reflux for 4 hours, cooled, and stirred at room temperature overnight. EtOAc (30 mL) was added and the mixture was washed with brine, dried (MgSO4), and concentrated to give 1.68 g (98%) of a brown solid. This material was used without further purification in the next step (hydrolysis).

reactant | 1-N-(2-iodoethyl)-2,3-dihydro-1H-imidazo[1,2-a]benzimidazole | 7.03 mmol, 2.20 g | ICCN1CCN2C1=NC1=C2C=CC=C1 | C11H12IN3
reactant | acetic acid | 10.54 mmol, 0.060 mL | C(C)(=O)O | C2H4O2
reactant | DBU | 10.54 mmol, 1.57 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | [2-(2,3-dihydro-1H-imidazo-[1,2-a]benzimidazole-1-yl)ethyl]acetate | 1.68 g, 98% | N1(CCN2C1=NC1=C2C=CC=C1)CCOC(C)=O | C13H15N3O2
